US09193741B2
Synthesis of 7-chloro-2-(4-fluorophenyl)-5-methyl-thiazolo[5,4-d]pyrimidine
To a solution of 2-(4-fluorophenyl)-5-methyl-thiazolo[5,4-d]pyrimidin-7(6H)-one (0.40 g, 1.23 mmol) in POCl3 was added diisopropylethylamine (0.13 ml, 0.77 mmol). The reaction mixture was stirred under N2 at 90° C. for 3.5 hours. After cooling down to room temperature, the reaction mixture was poured into ice-water and the aqueous phase was extracted with diethyl ether. The combined organic layers were washed with a saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated under reduced pressure. The crude residue was purified by chromatography on silica gel (hexane/EtOAc 10:1) to yield the title compound as a white solid (42.8 mg, 40%).

reactant | 2-(4-fluorophenyl)-5-methyl-thiazolo[5,4-d]pyrimidin-7(6H)-one | 1.23 mmol, 0.40 g | FC1=CC=C(C=C1)C=1SC=2N=C(NC(C2N1)=O)C | C12H8FN3OS
reactant | diisopropylethylamine | 0.77 mmol, 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-(4-fluorophenyl)-5-methyl-thiazolo[5,4-d]pyrimidine | 42.8 mg, 40% | ClC=1C2=C(N=C(N1)C)SC(=N2)C2=CC=C(C=C2)F | C12H7ClFN3S
